US05559230
5-(N-Methyl-N-ethoxycarbonylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.6 g) is dissolved in saturated solution of ammonia in methanol (20 ml), and the mixture is heated at 100° C. for 8 hours in a sealed tube. The reaction solution is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=30:1) to give 5-(N-methyl-N-carbamoylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) as colorless amorphous.

reactant | 5-(N-Methyl-N-ethoxycarbonylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.6 g | CN(CC(=O)OCC)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C30H33N3O4
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 5-(N-methyl-N-carbamoylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | CN(CC(N)=O)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C28H30N4O3
